US08071592B2
(a) N-[2,2-Bis(methyloxy)ethyl]-6-(methyloxy)-3-nitro-2-pyridineamine
A mixture of 2-chloro-6-(methyloxy)-3-nitropyridine (10 g, 53 mmol), aminoacetaldehyde dimethylacetal (5.6 g, 6.2 ml, 53 mmol) and potassium carbonate (7.4 g, 53 mmol) in acetonitrile (100 mL) and DMF (10 mL) was heated at 40° C. for 30 minutes. The mixture was filtered and extracted with DCM and brine. The organic extract was added to a silica column which was then eluted with 0-100% ethyl acetate in hexane affording a yellow solid (12.4 g, 90%).

reactant | 2-chloro-6-(methyloxy)-3-nitropyridine | 53 mmol, 10 g | ClC1=NC(=CC=C1[N+](=O)[O-])OC | C6H5ClN2O3
reactant | aminoacetaldehyde dimethylacetal | 53 mmol, 6.2 ml, 5.6 g | COC(CN)OC | C4H11NO2
reactant | potassium carbonate | 53 mmol, 7.4 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 100 mL | C(C)#N | C2H3N
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | N-[2,2-Bis(methyloxy)ethyl]-6-(methyloxy)-3-nitro-2-pyridineamine | COC(CNC1=NC(=CC=C1[N+](=O)[O-])OC)OC | C10H15N3O5
